US04289774
A mixture of 31.2 g of 2-methyl-4-(4'-fluoro-4-biphenylyl)-4-oxo-2-butenoic acid ethyl ester, 60 ml of 24% aqueous hydrazine hydrate solution and 50 ml of water is boiled for one hour. When it has cooled, 25 ml of concentrated hydrochloric acid is added and the liquid is boiled for an additional 30 minutes. After again cooling the mixture, the 4-methyl-6-(4'-fluoro-4-biphenylyl)-2,3-dihydropyridazin-3-one obtained is filtered off and washed with water. m.p. 247°-248°.

reactant | 2-methyl-4-(4'-fluoro-4-biphenylyl)-4-oxo-2-butenoic acid ethyl ester | 31.2 g | C(C)OC(C(=CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C)=O | C19H17FO3
reactant | hydrazine hydrate | 60 ml | O.NN
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 4-methyl-6-(4'-fluoro-4-biphenylyl)-2,3-dihydropyridazin-3-one | CC=1C(NN=C(C1)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C17H13FN2O
